US04033970
(a) 1-Ethyl-4-hydroxy-6-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester
43.6 g. of (3-phenylpropionyl)malonic acid, diethyl ester (0.15 mol.) are added to a stirred mixture of 16.5 g. of 5-amino-1-ethylpyrazole (0.15 mol.) and 220 g. of polyphosphoric acid. The mixture is heated to 120° (bath temperature) for 50 minutes. After the mixture has cooled to room temperature, 250 ml. of water are added in portions and stirring is continued for 20 minutes. The aqueous phosphoric acid solution is then decanted and the undissolved residue is treated with 200 ml. of water and aqueous ammonia (10%) to neutralize the mixture. The mixture is extracted with chloroform and the chloroform extract is washed twice with water, dried with Na2SO4 and evaporated to yield 39 g. of the oily product. Dissolution of the oil in about 250 ml. of ether and addition of ethereal hydrogen chloride yields 35 g. (62%) of 1-ethyl-4-hydroxy-6-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester, hydrochloride, m.p. 153°-155° (ethanol/ethyl acetate 1:1).

reactant | (3-phenylpropionyl)malonic acid, diethyl ester | 0.15 mol | C1(=CC=CC=C1)CCC(=O)C(C(=O)OCC)C(=O)OCC | C16H20O5
reactant | 5-amino-1-ethylpyrazole | 0.15 mol | NC1=CC=NN1CC | C5H9N3
reactant | hydrogen chloride | Cl | ClH
reactant | 1-ethyl-4-hydroxy-6-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester, hydrochloride | Cl.C(C)N1N=CC=2C1=NC(=C(C2O)C(=O)OCC)CCC2=CC=CC=C2
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-Ethyl-4-hydroxy-6-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=CC=2C1=NC(=C(C2O)C(=O)OCC)CCC2=CC=CC=C2 | C19H21N3O3
